US08304557B2
tert-butyl (5-hydroxy-2-methylphenyl)carbamate
A mixture of 3-amino-4-methylphenol (22.3 g, 0.181 mol), di-tert-butyl dicarbonate (39.7 g, 0.182 mol), tetrahydrofuran (400 mL) and saturated aqueous sodium carbonate solution (100 mL) was stirred at room temperature for 3 days. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate-hexane to give the title compound (37.4 g, 93%) as a white solid.

reactant | 3-amino-4-methylphenol | 0.181 mol, 22.3 g | NC=1C=C(C=CC1C)O | C7H9NO
reactant | di-tert-butyl dicarbonate | 0.182 mol, 39.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
reactant | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | tert-butyl (5-hydroxy-2-methylphenyl)carbamate | 37.4 g, 93% | OC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)C | C12H17NO3
